US08912188B2
To a solution of 2-methyl-6-(tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole (378 mg, 1.47 mmol) in ethylene glycol dimethyl ether (5.5 mL) and water (3 drops) was added methyl 2-chloro-3-[(2S)-2-methylpyrrolidin-1-yl]quinoxaline-6-carboxylate (150 mg, 0.49 mmol), sodium carbonate (156 mg, 1.47 mmol) and Pd(PPh3)4 (29 mg, 0.03 mmol) with stirring for 2 h at 90° C. in an oil bath under an inert atmosphere of nitrogen. The reaction mixture was concentrated under reduced pressure to give the residue, which was purified by silica gel column chromatography (2% ethyl acetate in petroleum ether) to afford methyl 2-(2-methyl-1H-indol-5-yl)-3-[(2S)-2-methylpyrrolidin-1-yl]quinoxaline-6-carboxylate as light yellow solid (140 mg, 71%).

reactant | 2-methyl-6-(tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole | 1.47 mmol, 378 mg | CC=1NC2=CC(=CC=C2C1)B1OC(C(O1)(C)C)(C)C | C15H20BNO2
reactant | methyl 2-chloro-3-[(2S)-2-methylpyrrolidin-1-yl]quinoxaline-6-carboxylate | 0.49 mmol, 150 mg | ClC1=NC2=CC=C(C=C2N=C1N1[C@H](CCC1)C)C(=O)OC | C15H16ClN3O2
reactant | sodium carbonate | 1.47 mmol, 156 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethylene glycol dimethyl ether | 5.5 mL | COCCOC | C4H10O2
catalyst | water | 3 drops | O | H2O
catalyst | Pd(PPh3)4 | 0.03 mmol, 29 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 2-(2-methyl-1H-indol-5-yl)-3-[(2S)-2-methylpyrrolidin-1-yl]quinoxaline-6-carboxylate | 140 mg, 71% | CC=1NC2=CC=C(C=C2C1)C1=NC2=CC=C(C=C2N=C1N1[C@H](CCC1)C)C(=O)OC | C24H24N4O2
